US04870074
Preparation of N-[[4-(2-chlorobenzyl)-6-methyl-2-morpholinyl]methyl]phthalimide
A mixture of 4-(2-chlorobenzyl)-2-chloromethyl-6-methylmorpholine (19.7 g), phthalimide potassium salt (14.6 g), and dimethylformamide (150 ml) is stirred at 150° C. for 5 hours. The reaction mixture is poured into ice-water and extracted with diethyl ether. The organic layer is washed successively with water and saturated aqueous sodium chloride solution, and dried over magnesium sulfate. The solvent is distilled off to give the title compound (26 g) as an oil.

reactant | 4-(2-chlorobenzyl)-2-chloromethyl-6-methylmorpholine | 19.7 g | ClC1=C(CN2CC(OC(C2)C)CCl)C=CC=C1 | C13H17Cl2NO
reactant | phthalimide potassium salt | 14.6 g | [K].C1(C=2C(C(N1)=O)=CC=CC2)=O
solvent | dimethylformamide | 150 ml | CN(C=O)C | C3H7NO
product | N-[[4-(2-chlorobenzyl)-6-methyl-2-morpholinyl]methyl]phthalimide | 26 g | ClC1=C(CN2CC(OC(C2)C)CN2C(C=3C(C2=O)=CC=CC3)=O)C=CC=C1 | C21H21ClN2O3
